US07423030B2
44.1. 5-chloro-2-(4-methoxybenzoyl)benzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-chlorobenzoic acid pretreated with n-butyllithium with 4-methoxy-N-methoxy-N-methyl-benzamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-chlorobenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)Cl | C7H4BrClO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-methoxy-N-methoxy-N-methyl-benzamide | COC1=CC=C(C(=O)N(C)OC)C=C1 | C10H13NO3
product | 5-chloro-2-(4-methoxybenzoyl)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)OC)=O | C15H11ClO4
